US08648038B2
2-(1-{4-[2-(4-Bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)-malonic Acid
A solution of 180 mg of dimethyl 2-(1-{4-[2-(4-bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)malonate in 5 ml of acetonitrile and 3.5 ml of 1 N sodium hydroxide solution (aq) was stirred at room temperature for 18 h. The reaction mixture was adjusted to pH=1 with 1 N HCl (aq) and then extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under high vacuum. This gave 171 mg of 2-(1-{4-[2-(4-bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)malonic acid in quantitative yield.

reactant | dimethyl 2-(1-{4-[2-(4-bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)malonate | 180 mg | BrC1=CC(=C(OC(C(=O)NC2=CC=C(C=C2)C(C#CC)C(C(=O)OC)C(=O)OC)(C)C)C=C1)Cl | C25H25BrClNO6
reactant | HCl | 1 N | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 1 N, 3.5 ml | [OH-].[Na+]
product | 2-(1-{4-[2-(4-Bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)-malonic Acid | quantitative yield | BrC1=CC(=C(OC(C(=O)NC2=CC=C(C=C2)C(C#CC)C(C(=O)O)C(=O)O)(C)C)C=C1)Cl | C23H21BrClNO6
